### PR TITLE
MultiAND gate

### PR DESCRIPTION
**Pull request by pirapira**
Implements, specifies and verifies the MultiAND gate of circomlib.

A part of #155 .

This solves #201.

### CODE REVIEW

File: Clean/Circuit/Theorems.lean [hunk 1]
```diff
@@ -8,6 +8,7 @@ import Clean.Circuit.Basic
 
 variable {F: Type} [Field F] {α β : Type}
 
+
```
Comment (pirapira) [inline Clean/Circuit/Theorems.lean]: No need to change this.

File: Clean/Circomlib/Gates.lean [hunk 2]
```diff
@@ -1,9 +1,27 @@
...
+
+/-- Helper to prove evaluation equality at any index -/
+lemma eval_index_helper {env : Environment (F p)} {input_var : Var (fields n) (F p)} {input : fields n (F p)}
+    (h_eval : input = eval env input_var) (idx : ℕ) (hidx : idx < n) :
+    input[idx] = Expression.eval env input_var[idx] := by
+  have : input[idx] = (eval env input_var)[idx] := by rw [h_eval]
+  simp only [ProvableType.eval_fields, Vector.getElem_map] at this
+  exact this
+
+end VectorSplitHelpers
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: This looks general enough. Move this somewhere?

File: Clean/Utils/Vector.lean [hunk 3]
```diff
@@ -232,6 +268,35 @@ theorem append_take_drop {v : Vector α (n + m)} :
...
+    by_cases idx < k
+    · simp only [Array.length_toList, List.get_eq_getElem, Array.getElem_toList,
+      Vector.getElem_toArray, Array.toList_extract, List.extract_eq_drop_take, tsub_zero,
+      List.drop_zero]
+      aesop
+    · simp only [Array.length_toList, List.get_eq_getElem, Array.getElem_toList,
+      Vector.getElem_toArray, Array.toList_extract, List.extract_eq_drop_take, tsub_zero,
+      List.drop_zero]
+      aesop
+
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]: A previous comment by @mitschabaude: it's better to formulate this lemma in terms of Vector take and drop.

If we keep this lemma around, people (and LLMs) will try to use it, and introduce lots of `toList`, so it's better to state the Vector version and just use it.

**Comment by pirapira** [comment]
Draft because still cleaning up.

File: Clean/Circuit/Theorems.lean (hunk 1 above)
Comment (pirapira) [reply Clean/Circuit/Theorems.lean]: removed.

File: Clean/Circomlib/Gates.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: done.

File: Clean/Utils/Vector.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Utils/Vector.lean]: Removed this. This was no longer used.

File: Clean/Circomlib/Gates.lean [hunk 4]
```diff
@@ -12,6 +17,11 @@ https://github.com/iden3/circomlib/blob/master/circuits/gates.circom
 namespace Circomlib
 variable {p : ℕ} [Fact p.Prime]
 
+-- Import the moved lemmas
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: nit: weird comment

File: Clean/Circomlib/Gates.lean [hunk 5]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+    let input2 : Vector (Expression (F p)) n2 := input.drop n1 |>.cast (by omega)
+
+    let out1 ← main input1
+    let out2 ← main input2
+
+    AND.circuit.main (out1, out2)
+
+
+
+
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: nit: can we get rid of extra newlines? IMO, one is enough everywhere :D

File: Clean/Circomlib/Gates.lean [hunk 6]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+    simp only [Array.size_extract]
+    have h1 : i < n1 := hi
+    have h2 : input.toArray.size = n := by simp [Vector.size_toArray]
+    rw [h2, min_eq_left h_n1_lt]
+    exact h1) =
+                  input.toArray[i]'(by
+                    have h1 : i < n1 := hi
+                    have h2 : input.toArray.size = n := by simp [Vector.size_toArray]
+                    rw [h2]
+                    omega) := by
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: I'm not a fan of adding many spaces to align equality statements, I think this would be better formatting:
```suggestion
  have h_extract : (input.toArray.extract 0 n1)[i]'(by
      simp only [Array.size_extract]
      have h1 : i < n1 := hi
      have h2 : input.toArray.size = n := by simp [Vector.size_toArray]
      rw [h2, min_eq_left h_n1_lt]
      exact h1) =
    input.toArray[i]'(by
      have h1 : i < n1 := hi
      have h2 : input.toArray.size = n := by simp [Vector.size_toArray]
      rw [h2]
      omega) := by
```

File: Clean/Circomlib/Gates.lean [hunk 7]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+  localLength _ := n - 1
+  localLength_eq := localLength_eq n
+  subcircuitsConsistent := subcircuitsConsistent n
+
+  Assumptions := Assumptions n
+  Spec := Spec n
+
+  -- TODO: Future work - update the FormalCircuit Soundness definition to have
+  -- h_env : input = eval env input_var instead of eval env input_var = input
+  -- for more natural theorem statements
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: I disagree, because we always want to rewrite `eval env input_var` to `input`, instead of the other way round.
If the statement was reversed, it can no longer be directly passed to `simp`, and `simp_all` won't make effective use of it. the direction of a statement should be the direction that we want to rewrite in

File: Clean/Gadgets/Boolean.lean [hunk 8]
```diff
@@ -103,6 +123,58 @@ theorem nor_is_bool {α : Type*} [Ring α] {x y : α} (hx : IsBool x) (hy : IsBo
...
+/-- If a is boolean (0 or 1), then a &&& 1 = a -/
+theorem land_one_of_IsBool (a : ℕ) (h : IsBool a) : a &&& 1 = a := by
+  rcases h with h0 | h1
+  · rw [h0]; norm_num
+  · rw [h1]; norm_num
+
+/-- If a is boolean (0 or 1), then 1 &&& a = a -/
+theorem one_land_of_IsBool (a : ℕ) (h : IsBool a) : 1 &&& a = a := by
+  rw [Nat.land_comm]
+  exact land_one_of_IsBool a h
```
Comment (mitschabaude) [inline Clean/Gadgets/Boolean.lean:135]: do we really need this as its own theorem?

File: Clean/Gadgets/Boolean.lean [hunk 9]
```diff
@@ -103,6 +123,58 @@ theorem nor_is_bool {α : Type*} [Ring α] {x y : α} (hx : IsBool x) (hy : IsBo
...
+
+/-- If x is boolean in F p, then x.val is boolean as a natural number -/
+theorem val_of_IsBool {p : ℕ} [Fact p.Prime] {x : F p} (h : IsBool x) : IsBool x.val := by
+  rcases h with h0 | h1
+  · rw [h0]; simp only [ZMod.val_zero]; exact zero
+  · rw [h1]; simp only [ZMod.val_one]; exact one
```
Comment (mitschabaude) [inline Clean/Gadgets/Boolean.lean:141]: this is great, an `iff` version of this could have been useful for me a couple of times already

File: Clean/Gadgets/Rotation64/Rotation64Bytes.lean [hunk 10]
```diff
@@ -5,7 +5,6 @@ import Clean.Utils.Primes
 namespace Gadgets.Rotation64Bytes
 variable {p : ℕ} [Fact p.Prime]
 
-open Bitwise (rotRight64)
```
Comment (mitschabaude) [inline Clean/Gadgets/Rotation64/Rotation64Bytes.lean:8]: I appreciate all these clean up changes!

File: Clean/Utils/Vector.lean [hunk 11]
```diff
@@ -12,6 +12,42 @@ def fromList (l: List α) : Vector α l.length := ⟨ .mk l, rfl ⟩
...
+        simp only [List.size_toArray] at h
+        -- Now we know lst has length 1, so it must be [x] for some x
+        match lst with
+        | [] => simp at h
+        | [x] =>
+          -- Goal: v.toList = [v.get 0]
+          -- v.toList = arr.toList = lst = [x]
+          -- v.get 0 = arr[0] = lst[0] = x
+          rfl
+        | _ :: _ :: _ => simp [List.length] at h
```
Comment (mitschabaude) [inline Clean/Utils/Vector.lean:34]: recursive match lets you express the same proof succinctly:
```suggestion
  match v with | ⟨ ⟨ _ :: [] ⟩ , _ ⟩ => rfl
```

File: Clean/Utils/Vector.lean [hunk 12]
```diff
@@ -12,6 +12,42 @@ def fromList (l: List α) : Vector α l.length := ⟨ .mk l, rfl ⟩
...
+  cases v using Vector.casesOn with
+  | mk arr h =>
+      cases arr using Array.casesOn with
+      | mk lst =>
+        simp only [List.size_toArray] at h
+        match lst with
+        | [] => simp at h
+        | [_] => simp [List.length] at h
+        | [x, y] => rfl
+        | _ :: _ :: _ :: _ => simp [List.length] at h
```
Comment (mitschabaude) [inline Clean/Utils/Vector.lean:49]:
```suggestion
  match v with | ⟨ ⟨ _ :: _ :: [] ⟩ , _ ⟩ => rfl
```

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (mitschabaude) [reply Clean/Circomlib/Gates.lean]: I think the problem is just that you started using the opposite direction somewhere in this file? You should probably fix that

File: Clean/Circomlib/Gates.lean [hunk 13]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+      let input1 : fields n1 (F p) := input.take n1 |>.cast (by simp only [Nat.min_def, n1]; split <;> omega)
+      let input2 : fields n2 (F p) := input.drop n1 |>.cast (by omega)
+      let input_var1 : Var (fields n1) (F p) := input_var.take n1 |>.cast (by simp only [Nat.min_def, n1]; split <;> omega)
+      let input_var2 : Var (fields n2) (F p) := input_var.drop n1 |>.cast (by omega)
+      have h_eval1 : input1 = eval env input_var1 := by
+        simp only [input_var1, input1]
+        apply Vector.ext
+        intro i hi
+        simp only [ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_take]
+        exact eval_index_helper h_env i (by omega)
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: don't need `eval_index_helper`
```suggestion
        simp only [h_env, ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_take]
```

File: Clean/Circomlib/Gates.lean [hunk 14]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+
+      have h_eval2 : input2 = eval env input_var2 := by
+        simp only [input_var2, input2]
+        apply Vector.ext
+        intro i hi
+        simp only [ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_drop]
+        exact eval_index_helper h_env (n1 + i) (by omega)
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]:
```suggestion
        simp only [h_env, ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_drop]
```

File: Clean/Circomlib/Gates.lean [hunk 15]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+
+      have h_eval1 : input1 = eval env input_var1 := by
+        simp only [input_var1, input1]
+        apply Vector.ext
+        intro i hi
+        -- Need to show: input[i] = (eval env (Vector.cast _ (Vector.take input_var n1)))[i]
+        simp only [ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_take]
+        have hi' : i < n1 := hi
+        have hi'' : i < m + 3 := by omega
+        exact eval_index_helper h_env i (by omega)
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]:
```suggestion
        simp only [h_env, ProvableType.eval_fields, Vector.getElem_map, Vector.getElem_cast, Vector.getElem_take]
```

File: Clean/Circuit/Theorems.lean [hunk 16]
```diff
@@ -631,3 +631,11 @@ def FormalAssertion.isGeneralFormalCircuit (F : Type) (Input : TypeMap) [Field F
...
       apply orig.completeness <;> trivial
   }
+
+/-- Helper to prove evaluation equality at any index -/
+lemma eval_index_helper {F : Type} [Field F] {n : ℕ} {env : Environment F} {input_var : Var (fields n) F} {input : fields n F}
+    (h_eval : input = eval env input_var) (idx : ℕ) (hidx : idx < n) :
+    input[idx] = Expression.eval env input_var[idx] := by
+  have : input[idx] = (eval env input_var)[idx] := by rw [h_eval]
+  simp only [ProvableType.eval_fields, Vector.getElem_map] at this
+  exact this
```
Comment (mitschabaude) [inline Clean/Circuit/Theorems.lean]: I don't think this theorem is needed, since `simp only [h_eval, circuit_norm]` already proves it. see comments before for how to replace the existing invocations

File: Clean/Circomlib/Gates.lean [hunk 17]
```diff
@@ -247,16 +258,811 @@ def circuit : FormalCircuit (F p) fieldPair field where
...
+        out <== and1.out;
+    } else {
+        and2 = AND();
+        var n1 = n\2;
+        var n2 = n-n\2;
+        ands[0] = MultiAND(n1);
+        ands[1] = MultiAND(n2);
+        var i;
+        for (i=0; i<n1; i++) ands[0].in[i] <== in[i];
+        for (i=0; i<n2; i++) ands[1].in[i] <== in[n1+i];
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: unfortunately, these comments mess up code highlighting for me, and it can be fixed by adding spaces around `<`
```suggestion
        for (i=0; i < n1; i++) ands[0].in[i] <== in[i];
        for (i=0; i < n2; i++) ands[1].in[i] <== in[n1+i];
```

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: > because we always want to rewrite eval env input_var to input, instead of the other way round.

I noticed this a while ago. It feels odd. Usually `subst input` would be my first move for `input = something complicated`.

I will drop this comment.

Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: I frequently apply `rw [\l h_env]`. So probably I don't know the idiomatic style here. After knowing it, I might and might not like the idiomatic style. All that after knowing it.

Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: I usually wanted to replace `input` away and wanted to see `eval env ...` in the goal. That sounds more stable because we don't rely on the luck of seeing the exact `eval env ...` form.

Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: I will experiment.

File: Clean/Circomlib/Gates.lean (hunk 5 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: I'll do a separate run of removing more of these.

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: But the experiment will be offline.

File: Clean/Circomlib/Gates.lean (hunk 13 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: yes, it works.

I also see that we sometimes want to rewrite with

```
input = eval env input_var
```
from left to right.

File: Clean/Circuit/Theorems.lean (hunk 16 above)
Comment (pirapira) [reply Clean/Circuit/Theorems.lean]: Removed.

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (mitschabaude) [reply Clean/Circomlib/Gates.lean]: yeah I guess in principle, moving the other way works as well. the constraints are written in terms of `eval env input_var` (or variants of that), while the spec and assumption talk about `input`, and these have to be reconciled one way or another.

the thing is that `input` is the simpler of the two terms, and therefore leads to easier-to-understand intermediate goals. so we have optimized for rewriting everything into `input`. if you check existing proofs, this "input_var elimination" is typically achieved simply by `simp only [circuit_norm, h_input]`, or `simp_all only [circuit_norm]`, or similar

File: Clean/Gadgets/Boolean.lean (hunk 8 above)
Comment (pirapira) [reply Clean/Gadgets/Boolean.lean:135]: Yes, also a good candidate to put in the circuit_norm simpset.

`land_one_of_IsBool.symm` doesn't give the same statement.

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (mitschabaude) [reply Clean/Circomlib/Gates.lean]: I can see your point for `subst input`, since it always works, and so gives a more mechanical proof strategy. This didn't occur to me back when I started writing proofs, I just wanted to see a "nice" mathematical statement which used intuitive variable names for each element participating in the constraint equations

File: Clean/Utils/Vector.lean (hunk 11 above)
Comment (mitschabaude) [reply Clean/Utils/Vector.lean:34]: @pirapira I noticed you didn't commit this suggestion, just making sure you saw it (no worries about making the change, it's cosmetic)

File: Clean/Circomlib/Gates.lean (hunk 13 above)
Comment (mitschabaude) [reply Clean/Circomlib/Gates.lean]: > I also see that we sometimes want to rewrite with
> 
> ```
> input = eval env input_var
> ```
> 
> from left to right.

I think that's just because of the way the helper lemmas in this file are formulated (in the reverse direction than usual)

File: Clean/Gadgets/Boolean.lean (hunk 8 above)
Comment (mitschabaude) [reply Clean/Gadgets/Boolean.lean:135]: it doesn't, but the statement is a trivial combination of `land_one_of_IsBool` and `land_comm`

Comment (mitschabaude) [reply Clean/Gadgets/Boolean.lean:135]: the question is, do we want a separate theorem if it
* is not used often
* where used, it could be replaced by two other existing theorems

I think the question is analogous to: when do we extract program logic into a helper function?

My answer usually is:
* either when the logic is used sufficiently often and we can avoid duplicating it over and over
* or when the amount of complexity that is contained inside the new method, and thereby removed from other code, is sufficiently big (here, this is small, since it's just one lemma replacing an easy combination of two other lemmas)

Comment (pirapira) [reply Clean/Gadgets/Boolean.lean:135]: > the statement is a trivial combination of land_one_of_IsBool and land_comm

Yes, and we don't want to put `land_comm` in the simpset.

That's why we have both

@[simp]
theorem [Nat.zero_and](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Bitwise/Lemmas.html#Nat.zero_and)(x : [Nat](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Nat)) :
0 [&&&](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HAnd.hAnd) x [=](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Eq) 0

@[simp]
theorem [Nat.and_zero](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Bitwise/Lemmas.html#Nat.and_zero)(x : [Nat](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Nat)) :
x [&&&](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HAnd.hAnd) 0 [=](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Eq) 0

in `simp`.

And the `simp` doesn't contain

theorem [Nat.and_comm](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Bitwise/Lemmas.html#Nat.and_comm)(x y : [Nat](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Nat)) :
x [&&&](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HAnd.hAnd) y [=](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Eq) y [&&&](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HAnd.hAnd) x

Something you can add to the simpset is worth stating.

Comment (pirapira) [reply Clean/Gadgets/Boolean.lean:135]: > My answer usually is:

I can play with some approaches:

* (a) always, given the statement looks simple enough ([example](https://www.isa-afp.org/sessions/aot/#AOT_PLM.html#AOT_PLM.cqt-further:1|fact))
* (b) whenever the statement in the simpset makes some progress in the simplification somewhere (some Isabelle / ACL2 people do this)
* (c) you design a struct type so that it aximatizes a concept, and ... (but I'm not that disciplined).

Comment (mitschabaude) [reply Clean/Gadgets/Boolean.lean:135]: > Something you can add to the simpset is worth stating.

this does make sense to me!
